US07465726B2
Benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride
To a suspension of benzothiazol-6-yl-(6-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine (4.05 g, 10.3 mmol) in 1,2-dimethoxyethane (125 mL) and water (25 mL) were added 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (3.50 g, 11.3 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II), complex with dichloromethane (1:1) (420 mg, 0.51 mmol) and potassium carbonate (2.85 g, 20.6 mmol). The flask was evacuated and refilled with N2 (3×). The mixture was heated at 80° C. overnight. The reaction mixture was diluted with EtOAc (200 mL) and water (50 mL) and filtered through a pad of celite. The organic phase was separated, and the aqueous phase was extracted with EtOAc (2×50 mL). The combined organic phases were washed with brine (100 mL), and dried over anhydrous sodium sulfate. Evaporation under reduced pressure afforded a brown solid. To a suspension of this crude material in methylene chloride (30 mL) was added 4M HCl/1,4-dioxane (30 mL), and the resulting mixture was stirred at rt overnight. The mixture was diluted with CH2Cl2 (30 mL), and the light-yellow solid was collected by filtration and dried in vacuo to give the title compound. LC-MS (ES, Pos.): 349 [MH+]. 1H NMR (DMSO-d6, 400 MHz): δ=2.51 (m, 2H), 3.34 (m, 2H), 3.81 (m, 2H), 6.52 (s, 1H), 7.09 (s, 1H), 7.73 (dd, J=8.7 Hz, 2.0 Hz, 1H), 8.22 (d, J=8.7 Hz, 1H), 8.36 (d, J=2.0 Hz, 1H), 8.51 (s, 1H), 9.46 (s, 1H).

reactant | benzothiazol-6-yl-(6-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 10.3 mmol, 4.05 g | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)I | C13H8IN5S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 11.3 mmol, 3.50 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 20.6 mmol, 2.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl 1,4-dioxane | 4M, 30 mL | Cl.O1CCOCC1
solvent | 1,2-dimethoxyethane | 125 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | 0.51 mmol, 420 mg | ClCCl | CH2Cl2
product | Benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1 | InChI=1S/C18H16N6S.3ClH/c1-2-14-16(25-10-22-14)7-12(1)23-17-13-8-15(11-3-5-19-6-4-11)24-18(13)21-9-20-17;;;/h1-3,7-10,19H,4-6H2,(H2,20,21,23,24);3*1H
